US07199239B2
Intermediate 18: N-(2-Methoxyethyl)-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine
A solution of methoxyacetaldehyde dimetylacetal (0.162 mL, 1.26 mmol) in 0.5 M HCl aq. (2.52 mL, 1.26 mmol) was heated to 50° C. and stirred under nitrogen for 1 h. The reaction mixture was allowed to cool to room temperature and extracted with CH2Cl2 (10 mL). The organic extract was separated by hydrophobic frit and dried by standing over molecular sieves for 2 h. To this solution was added 4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine (0.3 g, 1.26 mmol), then after 20 minutes sodium triacetoxyborohydride (0.375 g, 1.77 mmol) and acetic acid (0.072 mL, 1.26 mmol) were added. The resultant mixture was stirred at room temperature under nitrogen for 18 h. The reaction was quenched by cautious addition of sat. NaHCO3 aq. (30 mL) and extracted into CH2Cl2 (2×30 mL). The organic extract was passed through a hydrophobic frit and the solvents removed in vacuo. Purification by Biotage™ chromatography eluting with 19:1 cyclohexane:EtOAc afforded the title compound as a pale yellow oil (0.1 g).

reactant | methoxyacetaldehyde dimetylacetal | 1.26 mmol, 0.162 mL | COC(COC)OC | C5H12O3
reactant | HCl | 1.26 mmol, 0.5 M, 2.52 mL | Cl | ClH
reactant | 4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine | 1.26 mmol, 0.3 g | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)N)(F)F | C13H10F3N
reactant | sodium triacetoxyborohydride | 1.77 mmol, 0.375 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.26 mmol, 0.072 mL | C(C)(=O)O | C2H4O2
product | N-(2-Methoxyethyl)-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 0.1 g | COCCNC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C16H16F3NO
